data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3789,"CC(N)=[O+:1][Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,946,"CCCC1=CC=CC(C)=C1[O+](C)[B:1](Br)Br.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,3734,"C1=CC=C(C[OH:1])C=C1.CON1C(=O)C2(CC(N=C([O-])[O+:2](CC3=CC=CC=C3)[H:3])C3COC2C(=O)C3)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5765,"COC(=O)N([P+](C)(C)C)[N:1]([H:2])[C:3](OC)=[O:4].O=C1CCC(=O)[N-:5]1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9354,"CC(=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,468,"CCN[C:1](=[O:2])[CH:3]=[CH2:4].C[C:5](=[CH2:6])[N:7]1CCCC1|(7, 5);((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4,"C=[C+:1][CH2:2][Si-:3](C)(C)(C)OS(C)(=O)=O|((3, 2), 1)"
train,pmechdb_split_0,0,744,"Br[P:1](Br)Br.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1252,"C1=CC=C([C:1](C2=CC=CC=C2)(C2=CC=CC=C2)[Cl:2])C=C1.CC[NH+](CC)CC.N#CC1=CC=CC(OCCCSC2=N[N-]C=N2)=C1|((1, 2), 2)"
train,pmechdb_split_0,0,107,"C=CCC(C)(CC=C)C(C)=[O+:1][H:2].O.O=C[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9880,"CC(Br)C[OH:1].CC[CH+:2]O|(1, 2)"
train,pmechdb_split_0,0,3105,"O=C(O)C1=C[C:1]([Mg:2][Br])=CC=C1.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3506,"C1=CC=CC=C1.C1COCCN1.C1C[CH:1]([H:2])[C:3](=[N+:4]2CCOCC2)C1.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5413,"C[CH+:1]C.FC(F)(F)C1=C[CH:2]=[CH:3]O1|((3, 2), 1)"
train,pmechdb_split_0,0,1993,"C1=CC=NC=C1.CC1(C)CCCC2(C)C1C(O[Si](C)(C)C(C)(C)C)C=C(CO[Si](C)(C)C(C)(C)C)C2(O)C[OH:1].C[S+:2](C)OC(=NC1CCCCC1)NC1CCCCC1.O=C([O-])C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,8377,"C[C:1](C)=[C:2](C)[O-:3].C[CH2:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2381,"CC(=O)[O-].COC(=O)C[C:1](C)([N:2](C)CC1=CC=CC=C1)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6562,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C2([OH:1])NC3=C(C=C(C(=O)C4=CC=CC=C4)C=C3)N=C12.CCO.NC1=C([NH2+:2][H:3])C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2547,"CC(C)(C)OC(NCCN1N=C(C2=CC=CC=C2)C=C1C(=O)CC1CCCCC1)=[O:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9782,"CC[N:1](CC)C(C)(N)O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10158,"CS[CH:1]=[N:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,8126,"C[CH:1](C#N)[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3443,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C2([O-:1])CC=C(C)[NH2+]2)=C1.CC(=O)[O:2][H:3].O.O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2663,"CC1[C:1](C)(C)[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7242,"CO[PH:1](I)(I)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1597,"N#CC(C(N)C#N)=[N-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3687,"COC(O)[O:1]C1=CC=C2C(=C1)C1=C(C=CC=C1)N2C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7879,"CC(C)C1CCC2=CC(=[O+:1][Li-:2][NH+]([Si](C)(C)C)[Si](C)(C)C)C(CN(C)C)CCC21C.[I-]|((2, 1), 1)"
train,pmechdb_split_0,0,4556,"CCOC(=O)NNC(=O)OCC.CCOC(=O)[CH:1](C)[O+:2]=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C1=CC=CC=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1216,"CC(C)(C)OC(=O)N1CCC2=C3C=C(C(=O)[O:1][H:2])NC3=CC=C21.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:3]C(=O)OCC.O=[N+]([O-])C1=CC=C(CCO)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9162,"CC1(C)OC2=CCC[C:1]([O-:2])=[C:3]2C1[CH2:4][O:5]S(=O)(=O)C(F)(F)F.[Li][OH+]C(C)(C)C|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2634,"CC(=O)[O-].CC[NH+](CC)CC.CN(C)C1=CC=[N+:1]([C:2](CC2=CC=CC=C2)(OC(C)(C)C)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10373,"CCC[CH2][Sn-:1]([CH2]CCC)([CH2]CCC)([O]C(C)C)[CH2:2][CH+:3]CC([O][Ti]([O]C(C)C)([O]C(C)C)[O]C(C)C)C(C)=CC1=CSC(C)=N1|((1, 2), 3)"
train,pmechdb_split_0,0,913,"O[CH:1]=[OH+:2].[SH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8303,"C[CH:1]([O-:2])[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6241,"CC(=O)[O:1][H:2].COC1=CC=C(C2C(=CC3=CC=C(O)C=C3)C([NH2+]C3=C(O)C=CC=C3)([O-:3])C(=O)N2C2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3571,"CC(=O)[O:1][C:2]1([O-:3])CCCO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9469,"COC(=O)CC1CC(CCO[Si](C)(C)C(C)(C)C)OC(C)([O-])[O+:1]1[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,2373,"CC[NH+:1](CC)[CH:2](C)[NH:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10175,"CN(C)[CH:1]=[SH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3836,"C1=CC=C(C2OC(C3=CC=CC=C3)([OH:1])C3=C2C=CC=C3)C=C1.CO.O=C(C(F)(F)F)[O:2][H:3].O=C([O-])C(F)(F)F.[Mg+][Br]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1115,"Br[C:1](Br)(Br)[Br:2].C[P:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6068,"C1CCOC1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCCCCCCCO.OC1=CC=C(C(O)=[O:3])C=C1O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7586,"CCN1CCC23C4=C5C=CC(OC)=C4OC2C(=N[NH:1][H:2])CCC3(O)C1C5.O.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8368,"CC[O-:1].COC1=CC=CC(CC[CH:2]([H:3])[C:4](CCC2(C)C(=O)CCC2=O)=[O:5])=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
